Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
cucumber / honeydew melon / avocado / cantaloupe
 
Attending: ___.
 
Chief Complaint:
Epigastric pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ man with Asperger's and
recently diagnosed pancreatic neck mass  s/p EUS with FNA bx on
___ presenting with epigastric pain.

Per review of Atrius records, he developed right-sided abdominal
pain in late ___. He was seen in urgent care and was noted
to have AST elevated to 57. He was prescribed ranitidine and had
a CT done that showed pancreatic ductal dilation, and
subsequently an MRCP that showed pancreatic duct dilation 
without
evidence of mass or stone. He was seen in GI clinic at ___ for
these findings and referred to ___ for EUS. 

He underwent EUS yesterday (___), which again showed the
pancreatic ductal dilation as well as a 15x15mm hypervascular
mass in the pancreatic neck. This was biopsied.

After the procedure he initially did well, but then last night
developed new epigastric pain. The pain was sharp, 
non-radiating,
___ in severity, and not associated with food or relieved with
burping (as his more chronic abdominal pain is). As a result of
the pain he presented to the ED.

ED Course
Vitals: T 99.4, HR 88 BP 149/90, SpO2 100% on RA
Data: Lipase 1870, CT A/P with pancreatitis and fluid in the
pelvis (proteinaceous vs hemorrhage)
Interventions: Tylenol, morphine, LR 1L --> 250cc/hr
Consults: ERCP consulted

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Asperger's
Pancreatic neck mass s/p EUS w/ FNA biopsy on ___
Hx of leukopenia
 
Social History:
___
Family History:
Multiple family members with cancer - brother with renal cancer,
aunt with ?pancreatic cancer, grandmother with MM, uncle with
prostate cancer
 
Physical Exam:
Admission exam:
==============
VITALS: ___ 1017 Temp: 98.7 PO BP: 152/84 HR: 76 RR: 18 O2
sat: 97% O2 delivery: RA 
GENERAL: Well appearing man in no distress
EYES: Anicteric, PERRL
ENT: MMM. No OP lesion, erythema or exudate.  Ears and nose
without visible erythema, masses, or trauma.  
CV: Heart regular, no m/g.  JVP 6cm
RESP: Lungs CTAB no w/r/r.  Breathing comfortably
GI: Abdomen soft, non-distended. +Epigastric tenderness to
palpation without rebound/guarding.  Bowel sounds present.
GU: No suprapubic ttp or fullness
MSK: Extremities warm without edema. Moves all extremities
SKIN: No rashes or ulcerations noted on examined skin
NEURO: Alert, oriented, face symmetric, speech fluent sensation
to light touch grossly intact throughout
PSYCH: pleasant, appropriate affect
.
.
Discharge exam:
===============
GENERAL: Well appearing man in no distress
EYES: Anicteric, PERRL, +exotropia (appears to affect right eye)
ENT: MMM. 
CV: Heart regular, no m/g. No elevation in JVP, no JVD
RESP: lungs clear with only trace bibasilar crackles this AM
GI: Abdomen soft. Mild epigastric distention with moderate
tympani to percussiond. +Epigastric tenderness to firm palpation
without rebound/guarding (improved from yesterday); otherwise
NTTP.  Bowel sounds present.
MSK: Extremities warm without edema. Moves all extremities
SKIN: No rashes or ulcerations noted on examined skin
NEURO: AAOx4, conversant with clear speech, moves fingers & toes
to command, no resting or intention tremor
PSYCH: calm, cooperative
.

 
Pertinent Results:
Admission labs:
===============
___ 03:10AM BLOOD WBC-6.1 RBC-5.41 Hgb-14.3 Hct-44.9 MCV-83 
MCH-26.4 MCHC-31.8* RDW-12.6 RDWSD-38.2 Plt ___
___ 03:10AM BLOOD Neuts-80.2* Lymphs-11.7* Monos-6.1 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-4.85 AbsLymp-0.71* 
AbsMono-0.37 AbsEos-0.07 AbsBaso-0.02
___ 03:10AM BLOOD Glucose-106* UreaN-14 Creat-1.1 Na-137 
K-4.9 Cl-100 HCO3-26 AnGap-11
___ 07:13AM BLOOD Albumin-4.2 Calcium-8.9 Mg-1.6
___ 03:10AM BLOOD ALT-21 AST-25 LD(LDH)-319* AlkPhos-84 
TotBili-1.5
___ 03:10AM BLOOD Lipase-1870*
.
.
Micro:
=======
-___ UCx: no growth (final)

Imaging: 
=======
___ ERCP/EUS: 15x15 hypervascular, hypoechoic mass in the
pancreatic neck; FNA biopsy performed.

___ CT A/P:
1. Increased soft tissue stranding and edematous appearance of
the pancreas  centered at the pancreatic neck/body is most
compatible with acute pancreatitis in the setting of recent
biopsy.  This is associated with intermediate fluid density in
the pelvis which may reflect either proteinaceous or hemorrhagic
products, which is likely related to patient's recent
intervention.  However, recommend trending the
hematocrit/hemoglobin levels and if there is any concern for
acute bleed a repeat multiphasic CT study may be considered. 
2. High attenuating 1.5 cm lesion in the region the pancreatic
neck likely corresponds to patient's known pancreatic mass.  
This
is associated with mild pancreatic ductal dilatation up to 4 mm. 


-___ CXR
IMPRESSION: New opacities at each lung base, typical for
atelectasis.  Other etiologies such as aspiration or developing
pneumonia cannot be excluded, however.  Small new left-sided
pleural effusion.  Low lung volumes. 
.
.
Pathology
===========
Pancreatic tissue biopsy: PENDING
.
.
Discharge labs:
===============

___ 07:40AM BLOOD WBC-5.9 RBC-5.67 Hgb-14.6 Hct-46.0 
MCV-81* MCH-25.7* MCHC-31.7* RDW-12.2 RDWSD-36.0 Plt ___
___ 07:40AM BLOOD ___ PTT-28.0 ___
___ 07:40AM BLOOD Glucose-77 UreaN-9 Creat-1.1 Na-142 K-4.4 
Cl-100 HCO3-27 AnGap-15
___ 07:40AM BLOOD ALT-18 AST-14 AlkPhos-96 TotBili-1.5
___ 07:40AM BLOOD Albumin-4.8 Calcium-9.5 Phos-3.1 Mg-2.___cute pancreatitis following EUS w/ biopsy
-improved gradually with bowel rest, supportive measures
-tolerating regular, low-fat diet on the day of discharge with 
only mild pain treating with PRN Tylenol (not requiring oral 
opioids)
-encouraged him to eat small, frequent meals until symptoms of 
early satiety, abdominal bloating, etc. resolve

# Pancreatic neck mass
-Biopsy results still pending at this time
.
.
.
.
Time in care: >60 minutes in discharge-related activities on the 
day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
Do not take more than 3000 mg of acetaminophen from all sources 
in any 24 hour period  
2.  Multivitamins W/minerals 1 TAB PO DAILY  
3.  Ranitidine 150 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# acute pancreatitis following EUS w/ biopsy
# pancreatic neck mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital with abdominal pain from acute 
pancreatitis which was triggered by your recent pancreatic mass 
biopsy.  You were treated with bowel rest and pain control 
medications and gradually improved.

As we discussed, you should plan to eat small meals of low fat 
foods, and don't be surprised if you get full quickly, because 
of all the inflammation going on in your pancreas (which is 
right next to your stomach). To get sufficient nutrition to 
heal, try to eat frequent small meals.  You can take Tylenol 
(acetaminophen) as needed for pain at home, but do not take more 
than 3000 mg in any 24-hour period.  Please take a multivitamin 
with minerals each day.  If you develop vomiting, fevers 
(measured temperature > ___ F), or shaking chills, please seek 
medical attention.

Your pancreatic mass biopsy results are still pending. The GI 
doctors who performed the biopsy will contact you with the 
results.

It was a pleasure caring for you and we wish you a full and 
speedy recovery!

Sincerely,
Dr. ___ your ___ Medicine Team
 
Followup Instructions:
___